US08729068B2
A mixture of 450 mg of 2-(trimethylsilyl)ethyl 3-{[trans-4-(methoxycarbonyl)cyclohexyl]sulfamoyl}benzoate, 0.15 mL of ethyl iodide, 422 mg of potassium carbonate, and 4.5 mL of DMF was stirred at 65° C. overnight. To the reaction mixture was added water, followed by extraction with ethyl acetate. Then, the organic layer was washed with water and saturated brine in this order, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure to obtain a colorless oily substance. To the obtained oily substance were added a solution of tetrabutyl ammonium fluoride (TBAF) in THF (1.0 M, 2.0 mL) and 4.5 mL of THF, followed by stirring at room temperature for 2 hours. To the reaction mixture was added 0.2 M hydrochloric acid, followed by extraction with ethyl acetate. The organic layer was washed with 0.2 M hydrochloric acid, water, and saturated brine in this order, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to obtain 355 mg of 3-{ethyl[trans-4-(methoxycarbonyl)cyclohexyl]sulfamoyl}benzoic acid as a colorless solid.

reactant | 2-(trimethylsilyl)ethyl 3-{[trans-4-(methoxycarbonyl)cyclohexyl]sulfamoyl}benzoate | 450 mg | COC(=O)[C@@H]1CC[C@H](CC1)NS(=O)(=O)C=1C=C(C(=O)OCC[Si](C)(C)C)C=CC1 | C20H31NO6SSi
reactant | ethyl iodide | 0.15 mL | C(C)I | C2H5I
reactant | potassium carbonate | 422 mg | C([O-])([O-])=O.[K+].[K+]
reactant | tetrabutyl ammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | hydrochloric acid | 0.2 M | Cl | ClH
solvent | THF | 1.0 M, 2.0 mL | C1CCOC1 | C4H8O
solvent | THF | 4.5 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | DMF | 4.5 mL | CN(C)C=O | C3H7NO
product | 3-{ethyl[trans-4-(methoxycarbonyl)cyclohexyl]sulfamoyl}benzoic acid | 355 mg | C(C)N(S(=O)(=O)C=1C=C(C(=O)O)C=CC1)[C@@H]1CC[C@H](CC1)C(=O)OC | C17H23NO6S
